US09212190B2
A solution of tert-butyl N-(4-[[(3S)-3-[[(tert-butyldimethylsilyl)oxy]methyl]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)-N-methylcarbamate (963 mg, 1.76 mmol, 1.00 equiv) in 5 mL of THF was added TBAF (919 mg, 3.51 mmol, 2.00 equiv) at room temperature. The resulting solution was stirred overnight at 25° C. and diluted with water, extracted with 3×50 mL of ethyl acetate. The combined organic layers were washed with brine, dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:1) to afford the tert-butyl N-(4-[[(3S)-3-(hydroxymethyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)-N-methylcarbamate (691 mg, 91%) as a white solid. MS: m/z 434 (M+H)+.

reactant | tert-butyl N-(4-[[(3S)-3-[[(tert-butyldimethylsilyl)oxy]methyl]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)-N-methylcarbamate | 1.76 mmol, 963 mg, 1.00 equiv | [Si](C)(C)(C(C)(C)C)OC[C@@H]1C=2C=3C(=NC=NC3SC2CC1)OC1CCC(CC1)N(C(OC(C)(C)C)=O)C | C28H45N3O4SSi
reactant | TBAF | 3.51 mmol, 919 mg, 2.00 equiv | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | tert-butyl N-(4-[[(3S)-3-(hydroxymethyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)-N-methylcarbamate | 691 mg, 91% | OC[C@@H]1C=2C=3C(=NC=NC3SC2CC1)OC1CCC(CC1)N(C(OC(C)(C)C)=O)C | C22H31N3O4S
